US08835428B2
Step 3: (S)-3-Methyl-2-({3-[4-(3-phenyl-ureido)-phenyl]-isoxazole-5-carbonyl}-amino)-butyric acid methyl ester
The title compound was prepared from 3-[4-(3-phenyl-ureido)-phenyl]-isoxazole-5-carboxylic acid and (S)-2-amino-3-methyl-butyric acid methyl ester hydrochloride as set forth in Example 5 and was obtained in 65% yield. Mass (ES+): 437 (M++1); IR (KBr): 3342, 3262, 1743; 1665, 1598, 1550; 1H NMR (DMSO-d6) δ: 0.92 (2×d, 6H), 2.18 (m, 1H), 3.63 (s, 3H), 4.27 (t, 1H), 6.94 (t, 1H), 7.25 (t, 2H), 7.42 (d, 2H), 7.58 (d, 2H), 7.64 (s, 1H), 7.80 (d, 2H), 8.72 (s, 1H), 8.92 (s, 1H), 9.14 (d, 1H).

reactant | 3-[4-(3-phenyl-ureido)-phenyl]-isoxazole-5-carboxylic acid | C1(=CC=CC=C1)NC(NC1=CC=C(C=C1)C1=NOC(=C1)C(=O)O)=O | C17H13N3O4
reactant | (S)-2-amino-3-methyl-butyric acid methyl ester hydrochloride | Cl.COC([C@H](C(C)C)N)=O
reactant | KBr | [K+].[Br-]
product | (S)-3-Methyl-2-({3-[4-(3-phenyl-ureido)-phenyl]-isoxazole-5-carbonyl}-amino)-butyric acid methyl ester | 65% yield | COC([C@H](C(C)C)NC(=O)C1=CC(=NO1)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1)=O | C23H24N4O5
